US07507740B2
Production of 5-(2-ethoxyethyl)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine
To a solution of 4-chloro-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine (160 mg) in 1-methyl-2-pyrrolidone (1.4 mL) was added 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline (228 mg), and the reaction mixture was stirred at 120° C. for 2 hrs. The reaction mixture was allowed to cool to room temperature, diluted with 5% aqueous sodium hydrogen carbonate solution (25 mL), and extracted with ethyl acetate (40 mL×3). The organic layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (eluent:hexane/ethyl acetate=90/10→0/100). The object fraction was concentrated under reduced pressure and dried to give the title compound (191 mg) as a colorless transparent oil.

reactant | 4-chloro-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine | 160 mg | ClC=1C2=C(N=CN1)C=CN2CCOCC | C10H12ClN3O
reactant | 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline | 228 mg | CC=1C=C(N)C=CC1OC=1C=NC(=CC1)C | C13H14N2O
solvent | 1-methyl-2-pyrrolidone | 1.4 mL | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydrogen carbonate | 25 mL | C(O)([O-])=O.[Na+]
product | 5-(2-ethoxyethyl)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 191 mg | C(C)OCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C | C23H25N5O2
